US07964608B2
(1-Cyclopentyl-7-methoxy-2,4-dioxo-1,4-dihydro-2H-pyrimido[5,4-c]quinolin-3-yl)-acetic acid ethyl ester (24 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and isocyanato-acetic acid ethyl ester (0.5 mmol) following general procedure C. LCMS: m/z 398 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | isocyanato-acetic acid ethyl ester | 0.5 mmol | C(C)OC(CN=C=O)=O | C5H7NO3
product | (1-Cyclopentyl-7-methoxy-2,4-dioxo-1,4-dihydro-2H-pyrimido[5,4-c]quinolin-3-yl)-acetic acid ethyl ester | 24 mg | C(C)OC(CN1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCCC1)=O)=O | C21H23N3O5
